US05098930
Using the procedure described in Example 5, 7-fluoro-2-bromomethylnaphthalene (0.265 g) was reacted with 4-(3-hydroxyphenyl)-4-methoxy-2,6-dimethyltetrahydropyran (0.225 g, less polar isomer) to give 4-[3-(7-fluoronaphth-2-ylmethoxy)phenyl]-4-methoxy-2,6-dimethyltetrahydropyran (0.37 g, 93%), as an oil.

reactant | 7-fluoro-2-bromomethylnaphthalene | 0.265 g | FC1=CC=C2C=CC(=CC2=C1)CBr | C11H8BrF
reactant | 4-(3-hydroxyphenyl)-4-methoxy-2,6-dimethyltetrahydropyran | 0.225 g | OC=1C=C(C=CC1)C1(CC(OC(C1)C)C)OC | C14H20O3
product | 4-[3-(7-fluoronaphth-2-ylmethoxy)phenyl]-4-methoxy-2,6-dimethyltetrahydropyran | 0.37 g, 93% | FC1=CC=C2C=CC(=CC2=C1)COC=1C=C(C=CC1)C1(CC(OC(C1)C)C)OC | C25H27FO3
